### PR TITLE
feat: ranges in `UInt*`

### PR DESCRIPTION
**Pull request by datokrat**
This PR adds range support to`BitVec` and the `UInt*` types. This means that it is now possible to write, for example, `for i in (1 : UInt8)...5 do`, in order to loop over the values 1, 2, 3 and 4 of type `UInt8`.

### CODE REVIEW

File: src/Init/Data/UInt/Lemmas.lean [hunk 1]
```diff
@@ -207,6 +207,11 @@ macro "declare_uint_theorems" typeName:ident bits:term:arg : command => do
   protected theorem toNat_inj : ∀ {a b : $typeName}, a.toNat = b.toNat ↔ a = b :=
     Iff.intro toNat.inj (congrArg toNat)
 
+  protected theorem toNat_ne_toNat (a b : $typeName) : a.toNat ≠ b.toNat ↔ a ≠ b := by
+    simp [a.toNat_inj]
+  protected theorem toNat_le_toNat (a b : $typeName) : a.toNat ≤ b.toNat ↔ a ≤ b := Iff.rfl
+  protected theorem toNat_lt_toNat (a b : $typeName) : a.toNat < b.toNat ↔ a < b := Iff.rfl
```
Comment (Rob23oba) [inline src/Init/Data/UInt/Lemmas.lean]: Why do we need these? We have `UIntN.le_iff_toNat_le.symm`, `UIntN.lt_iff_toNat_lt.symm`, `not_congr UIntN.toNat_inj` already.

Comment (datokrat) [reply src/Init/Data/UInt/Lemmas.lean]: Thanks for pointing them out, I wasn't aware of them. I just found `Int.toNat_le_toNat` and `Int.toNat_le_toNat`. Then I'll go with the existing ones.

(By the way, symbol search seems to fail finding `UInt*` lemmas on my machine, which *might* be related to them being generated by a macro?)

File: src/Init/Data/Range/Polymorphic/UInt.lean [hunk 2]
```diff
@@ -0,0 +1,495 @@
...
+
+public section
+
+open Std Std.PRange
+
+namespace UInt8
+
+instance : UpwardEnumerable UInt8 where
+  succ? x := Option.guard (· ≠ 0) (x + 1)
+  succMany? n x := let s := x.toNat + n; if s < 2 ^ 8 then some (.ofNat s) else none
```
Comment (eric-wieser) [inline src/Init/Data/Range/Polymorphic/UInt.lean]:
```suggestion
  succMany? n x := let s := x.toNat + n; if h : s < 2 ^ 8 then some (.ofNatLT s h) else none
```

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-09-08` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-08 13:42:16)

File: tests/lean/run/rangePolymorphic.lean [hunk 3]
```diff
@@ -92,7 +92,33 @@ section Int
...
 
-example : Std.PRange.LawfulRangeSize .closed Int := inferInstance
-example : Std.PRange.LawfulRangeSize .open Int := inferInstance
-
 end Int
+
+section UInt
+
+example : ((1 : UInt8)...3).toList = [1, 2] := by native_decide
+example : ((-1 : UInt8)...3).toList = [] := by native_decide -- 255 ≤ x < 3 is impossible
```
Comment (eric-wieser) [inline tests/lean/run/rangePolymorphic.lean:100]: This behavior is reasonable, but what should I write if I actually want `[-1, 0, 1, 2]`?

Comment (Rob23oba) [reply tests/lean/run/rangePolymorphic.lean:100]: I suppose you should use `Int8` instead for that (which I guess would be in a different PR).

Comment (eric-wieser) [reply tests/lean/run/rangePolymorphic.lean:100]: What about the range `[120, 121, ..., 254, 255, 0, 1, 2, 3]`? I guess I'm asking for some notion of cyclic ranges, since they come for free with UInt types and are natural for `Fin` types.

Mathlib has `CircularOrder` to describe this kind of ordering.

File: src/Init/Data/Range/Polymorphic/UInt.lean [hunk 4]
```diff
@@ -0,0 +1,495 @@
...
+      simp only [UInt8.ofNat_add, ← UInt8.toNat_inj,
+        decide_not, Option.bind_some, UInt8.add_assoc, UInt8.ofNat_one,
+        Option.guard_eq_some_iff, UInt8.toNat_add, UInt8.toNat_ofNat',
+        UInt8.reduceToNat, Bool.not_eq_eq_eq_not, Bool.not_true,
+        decide_eq_false_iff_not, true_and]
+      omega
+    · have : b.toNat + n + 1 = 2 ^ 8 := by omega
+      simpa [UInt8.ofNat_size] using congrArg UInt8.ofNat this
+    · omega
+    · simp
```
Comment (Rob23oba) [inline src/Init/Data/Range/Polymorphic/UInt.lean]: This does *not* need to be so long!
```suggestion
instance : UpwardEnumerable UInt8 where
  succ? i := if i + 1 = 0 then none else some (i + 1)
  succMany? n i := if h : i.toNat + n < UInt8.size then some (.ofNatLT _ h) else none

instance : LawfulUpwardEnumerable UInt8 where
  ne_of_lt a b h := by
    obtain ⟨c, hc⟩ := h
    simp [UpwardEnumerable.succMany?, ← UInt8.toNat_inj, UInt8.size] at hc ⊢
    omega
  succMany?_zero x := by simp [UpwardEnumerable.succMany?, x.toNat_lt_size]
  succMany?_succ a b := by
    simp only [UpwardEnumerable.succMany?, UInt8.size, UpwardEnumerable.succ?]
    split <;> split <;> simp [← UInt8.toNat_inj] <;> omega
```

File: tests/lean/run/rangePolymorphic.lean (hunk 3 above)
Comment (Rob23oba) [reply tests/lean/run/rangePolymorphic.lean:100]: Hmm that would violate `LawfulUpwardEnumerable.ne_of_lt` though -- currently `PRange` relies on there being no cycles.

Comment (datokrat) [reply tests/lean/run/rangePolymorphic.lean:100]: Indeed. The semantics of `a...b` is "the numbers that are greater than or equal to a and less than b", so cyclic ranges aren't supported by the current design.

One problem with `CircularOrder` is that it doesn't cover linear orders -- what would be needed would be a generalization of both that provides all the necessary properties to define ranges and isn't too complicated.

File: src/Init/Data/Range/Polymorphic/UInt.lean (hunk 4 above)
Comment (datokrat) [reply src/Init/Data/Range/Polymorphic/UInt.lean]: That's very nice indeed. I'm still struggling with the question what I should think about (nonterminal) `simp` followed by `omega`, but it's a pragmatic thing to do.

File: tests/lean/run/rangePolymorphic.lean (hunk 3 above)
Comment (datokrat) [reply tests/lean/run/rangePolymorphic.lean:100]: The best way to get wrap-around behavior in the current design is to use the iterator API, for example:

```lean
((-2)...5).map UInt8.ofNat |>.toList -- [254, 255, 0, 1, 2, 3, 4]
```

It's more tedious to write, but it allows for repetitions, too:

```lean
(0...256).map UInt8.ofNat |>.toList -- [0, 1, 2, ..., 254, 255, 0]
```

Comment (eric-wieser) [reply tests/lean/run/rangePolymorphic.lean:100]: > One problem with CircularOrder is that it doesn't cover linear orders

We do have `LinearOrder.toCircularOrder`, but indeed no predicate version that says one is induced by the other.

File: src/Init/Data/Range/Polymorphic/UInt.lean [hunk 5]
```diff
@@ -0,0 +1,344 @@
...
+    · intro hle
+      refine ⟨y.toNat - x.toNat, ?_⟩
+      apply Exists.intro
+      · rw [ofNatLT_sub (UInt8.toNat_lt y) hle, ofNatLT_toNat, ofNatLT_toNat, UInt8.add_comm,
+          UInt8.sub_add_cancel]
+      · rw [Nat.add_sub_cancel' ‹_›]
+        exact UInt8.toNat_lt _
+    · rintro ⟨n, hn, rfl⟩
+      rw [UInt8.toNat_add, UInt8.toNat_ofNatLT, Nat.mod_eq_of_lt hn]
+      omega
```
Comment (eric-wieser) [inline src/Init/Data/Range/Polymorphic/UInt.lean]: Rather than repeating this for each type, I wonder if you can prove it for bitvec, and then pull back over a theorem like `(succ? i).toBitVec = succ? i.toBitVec`.

Comment (eric-wieser) [reply src/Init/Data/Range/Polymorphic/UInt.lean]: (you of course still want to define the data-carrying instances separately to get the optimal C implementations)

Comment (datokrat) [reply src/Init/Data/Range/Polymorphic/UInt.lean]: Good idea, I've added `BitVec` support now.

File: tests/lean/run/rangePolymorphic.lean (hunk 3 above)
Comment (datokrat) [reply tests/lean/run/rangePolymorphic.lean:100]: In the current design, `3...1` (in `Nat`) is empty and, in particular, finite. This has the advantage that all (say) closed-open ranges in `Nat` are known to be finite. This is nice because it is easy to prove that iteration over such ranges terminates.

If we were implementing the ranges using the `toCircularOrder` instance for linear orders, not all closed-open ranges in `Nat` would be finite. Then (non-`partial`) iteration over a range such as `1...3` would require a proof that 1 is less than or equal to 3. The situation is similar to division in `Nat`: A division function on `Nat` that requires a divisor-nonzero proof is annoying to use, so dividing by zero is just defined to be zero.

For this reason, while it would be great to support wrap-around ranges for `UInt*`, relying on `CircularOrder` as the general underlying structure isn't feasible. A "lawless" circular order -- represented by `Btw` -- might do, but I am unsure about the consequences of further generalizing the polymorphic ranges. I fear that it might cause a further blow-up in the number of range-related type classes.

File: src/Init/Data/Range/Polymorphic/UInt.lean [hunk 6]
```diff
@@ -0,0 +1,377 @@
...
+open Std Std.PRange
+
+namespace UInt8
+
+instance : UpwardEnumerable UInt8 where
+  succ? i := if i + 1 = 0 then none else some (i + 1)
+  succMany? n i := if h : i.toNat + n < UInt8.size then some (.ofNatLT _ h) else none
+
+theorem succ?_eq_succ?_toBitVec {x : UInt8} :
+    UpwardEnumerable.succ? x = UInt8.ofBitVec <$> UpwardEnumerable.succ? x.toBitVec := by
```
Comment (eric-wieser) [inline src/Init/Data/Range/Polymorphic/UInt.lean]: I'd argue that
```suggestion
    UpwardEnumerable.succ? (UInt8.ofBitVec b) = UInt8.ofBitVec <$> UpwardEnumerable.succ? b := by
```
and the corresponding `toBitVec` lemma is more useful, as it lets you push the applications around.

Comment (datokrat) [reply src/Init/Data/Range/Polymorphic/UInt.lean]: Good point, I have improved these lemmas now.
